US07034018B2
2-[2-(Pyrrolidin-1-yl-o-tolylmethyl)-pyrrol-1-yl]-phenylamine
The preparation was carried out in accordance with general synthesis instructions 4 from 2-pyrrol-1-yl-phenylamine and 1-(2-methyl-benzylidene)-pyrrolidinium chloride.

reactant | 2-pyrrol-1-yl-phenylamine | N1(C=CC=C1)C1=C(C=CC=C1)N | C10H10N2
reactant | 1-(2-methyl-benzylidene)-pyrrolidinium chloride | [Cl-].CC1=C(C=[N+]2CCCC2)C=CC=C1
product | 2-[2-(Pyrrolidin-1-yl-o-tolylmethyl)-pyrrol-1-yl]-phenylamine | N1(CCCC1)C(C=1N(C=CC1)C1=C(C=CC=C1)N)C1=C(C=CC=C1)C | C22H25N3
